US05612356
3-Formyl-5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene
22 ml of a 1.56M solution of n-butyllithium in hexane was dropwise added to 40 ml of a solution of 5.7 g of 5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene in anhydrous diethyl ether at -78° C. The temperature of the mixture was gradually raised to room temperature (in 10 minutes). The resulting mixture was stirred for 5 hours and cooled to -78° C., followed by the dropwise addition thereto of 5 ml of a solution of 2.6 g of N,N-dimethylformamide in diethyl ether. The temperature of the obtained mixture was gradually raised to room temperature (in 10 minutes). The resulting mixture was stirred for 3 hours, followed by the addition thereto of 30 ml of a saturated aqueous solution of ammonium chloride. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 10% ethyl acetate/n-hexane) to give 4.2 g of the title compound as a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene | 5.7 g | COCOC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C16H24O2
reactant | N,N-dimethylformamide | 2.6 g | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Formyl-5,6,7,8-tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene | 4.2 g | C(=O)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OCOC | C17H24O3
